US08022062B2
Use a method similar to the General Procedure 5-3 to react 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine (200 mg, 0.471 mmol) and 4-aminomethyl-N-(2-pyridin-2-yl-ethyl)-benzamide (241 mg, 0.942 mmol) using palladium(II) acetate (21 mg, 0.094 mmol), tris(dibenzylideneacetone)dipalladium(0) (43 mg, 0.047 mmol), BINAP (176 mg, 0.283 mmol) and cesium carbonate (307 mg, 0.942 mmol) in dioxane (5 mL). Purify by chromatography on silica gel eluting with hexane and hexane/EtOAc/DCM/methanol (7:1:1:1) to give 7-chloro-6-[4-(2-pyridin-2-yl-ethylcarbamoyl)-benzylamino]-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine as an oil (107 mg, 43%). MS (ES+) m/z: 531 (+H)+.

reactant | 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.471 mmol, 200 mg | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)OS(=O)(=O)C(F)(F)F | C13H10ClF6NO4S
reactant | 4-aminomethyl-N-(2-pyridin-2-yl-ethyl)-benzamide | 0.942 mmol, 241 mg | NCC1=CC=C(C(=O)NCCC2=NC=CC=C2)C=C1 | C15H17N3O
reactant | BINAP | 0.283 mmol, 176 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | cesium carbonate | 0.942 mmol, 307 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | palladium(II) acetate | 0.094 mmol, 21 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.047 mmol, 43 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 7-chloro-6-[4-(2-pyridin-2-yl-ethylcarbamoyl)-benzylamino]-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 107 mg, 43% | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)NCC1=CC=C(C=C1)C(NCCC1=NC=CC=C1)=O | C27H26ClF3N4O2
